US09315475B2
Step 3: Preparation of tert-butyl (2R,5R)-5-(aminomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate
To a solution of tert-butyl (2R,5R)-5-[(benzylamino)methyl]-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate (1 eq.) in 2,2,2-trifluoroethanol (0.17M) was added Pd(OH)2 (0.33 eq.). The reaction mixture was stirred for 16 hrs under one atmosphere of hydrogen. The reaction mixture was filtered on celite and the filtrate was concentrated under reduced pressure. The residue was used as such for the next step.

reactant | tert-butyl (2R,5R)-5-[(benzylamino)methyl]-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | 1 eq. | C(C1=CC=CC=C1)NC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C42H50N4O6
reactant | hydrogen | [H][H] | H2
solvent | 2,2,2-trifluoroethanol | 0.17M | FC(CO)(F)F | C2H3F3O
catalyst | Pd(OH)2 | 0.33 eq. | [OH-].[OH-].[Pd+2]
product | tert-butyl (2R,5R)-5-(aminomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | NC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H44N4O6
